US05480873
5-(9,10-Dihydro-4,5-dimethoxy-9,10-dioxoanthracen-2-yl)tetrazole
Tri-n-butyltin azide (100 ml) was added to 9,10-dihydro-4,5-dimethoxy-9,10-dioxoanthracene-2-carbonitrile (5.75 g) and heated and stirred at 150° C. for 4 hours, cooled to room temperature, poured into ethyl acetate (1000 ml). Acetic acid (10 cm3) was added and the solution allowed to stand 16 hours, the resultant precipitate was filtered to give the dimethoxyetrazole, m.p. 262°-264° C.

reactant | Tri-n-butyltin azide | 100 ml | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | 9,10-dihydro-4,5-dimethoxy-9,10-dioxoanthracene-2-carbonitrile | 5.75 g | COC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC)=O)C#N | C17H11NO4
reactant | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
solvent | Acetic acid | 10 cm3 | C(C)(=O)O | C2H4O2
product | 5-(9,10-Dihydro-4,5-dimethoxy-9,10-dioxoanthracen-2-yl)tetrazole | COC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC)=O)C1=NN=NN1 | C17H12N4O4
